US05019597
Preparation of N-tricyclo[3.3.1.13,7 ]dec-2-yl-2- propenamide
A solution of acryloyl chloride (4.52 g, 0.05 mole) in ethyl ether (20 ml) was added dropwise to a stirring mixture of 2-adamantylamine hydrochloride (9.35 g, 0.05 mole) and triethylamine (30.65 ml) in methylene chloride (200 ml) and ethyl ether (200 ml) over a 30 minute period. The solution was stirred for 12 hours, the solid filtered and washed with ethyl ether and the filtrate stripped to an oily material which was taken up in ethyl acetate and hexane and allowed to stand overnight. The solid was filtered, the filtrate concentrated and chilled and the product as an orange solid filtered and dried. The structure was confirmed by NMR.

reactant | acryloyl chloride | 0.05 mole, 4.52 g | C(C=C)(=O)Cl | C3H3ClO
reactant | 2-adamantylamine hydrochloride | 0.05 mole, 9.35 g | Cl.C12C(C3CC(CC(C1)C3)C2)N
reactant | triethylamine | 30.65 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl ether | 200 ml | C(C)OCC | C4H10O
product | N-tricyclo[3.3.1.13,7 ]dec-2-yl-2- propenamide | C12C(C3CC(CC(C1)C3)C2)NC(C=C)=O | C13H19NO
